US08133909B2
(2,4-Dimethyl-thiazol-5-yl)-(2-p-tolyl-ethyl)-amine
To a solution of 5-bromo-2,4-dimethyl-1,3thiazole (1.00 g, 5.21 mmol) in DMSO (5 mL) was added 2-(p-tolyl)ethylamine (1.06 g, 7.81 mmol) and potassium carbonate (1.1 g, 7.9 mmol). The reaction mixture was stirred for 6 d at ambient temperature and for 2 d at 160° C. under a nitrogen atmosphere. After cooling to ambient temperature it was diluted with ethyl acetate (20 mL) and washed with aqueous sodium carbonate (saturated, 20 mL) and water (20 mL). Drying over sodium sulfate, concentration and purification by chromatography (SiO2, heptane:ethyl acetate=70:30 to 0:100) afforded the title compound (170 mg, 13%) as a light brown solid. MS m/e: 247.0 [M+H]+.

reactant | 5-bromo-2,4-dimethyl-1,3thiazole | 5.21 mmol, 1.00 g | BrC1=C(N=C(S1)C)C | C5H6BrNS
reactant | 2-(p-tolyl)ethylamine | 7.81 mmol, 1.06 g | C1(=CC=C(C=C1)CCN)C | C9H13N
reactant | potassium carbonate | 7.9 mmol, 1.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | (2,4-Dimethyl-thiazol-5-yl)-(2-p-tolyl-ethyl)-amine | 170 mg, 13% | CC=1SC(=C(N1)C)NCCC1=CC=C(C=C1)C | C14H18N2S
